US08034812B2
Production of N-(3-{[2-({[2-(2-hydroxyethoxy)ethyl]carbamoyl}amino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-3-(trifluoromethyl)benzamide
Using 2,2,2-trichloroethyl [6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]carbamate (140 mg, 0.237 mmol), 2-(2-aminoethoxy)ethanol (43 μL, 0.435 mmol), N,N-diisopropylpropane-2-amine (76 μL, 0.435 mmol) and dimethyl sulfoxide (5 mL) as starting materials and in the same manner as in Example 386, the title compound (86 mg, 62%) was obtained as a pale-yellow powder.

reactant | 2,2,2-trichloroethyl [6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]carbamate | 0.237 mmol, 140 mg | FC(C=1C=C(C(=O)NC=2C=C(OC=3C=CC=4N(N3)C=C(N4)NC(OCC(Cl)(Cl)Cl)=O)C=CC2)C=CC1)(F)F | C23H15Cl3F3N5O4
reactant | 2-(2-aminoethoxy)ethanol | 0.435 mmol, 43 μL | NCCOCCO | C4H11NO2
reactant | N,N-diisopropylpropane-2-amine | 0.435 mmol, 76 μL | C(C)(C)N(C(C)C)C(C)C | C9H21N
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | N-(3-{[2-({[2-(2-hydroxyethoxy)ethyl]carbamoyl}amino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-3-(trifluoromethyl)benzamide | 86 mg, 62% | OCCOCCNC(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C25H23F3N6O5
